US05324747
To 2.0 g (14.5 mmol) of 3-nitroaniline and 4.5 ml (32 mmol) of triethylamine in 60 ml of methylene chloride stirred at room temperature was added 5.4 ml (16 mmol) of octadecanoyl chloride in 10 ml of methylene chloride. The reaction mixture was kept at room temperature for 18 hours and then was washed with 1N HCl, dried and concentrated at reduced pressure to a solid. Recrystallization from methanol gave 5.6 g (95% yield, mp 75°-76°) of N-(3-nitrophenyl)octadecanamide.

reactant | 3-nitroaniline | 14.5 mmol, 2.0 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 32 mmol, 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | octadecanoyl chloride | 16 mmol, 5.4 ml | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-nitrophenyl)octadecanamide | 5.6 g, 95% yield | [N+](=O)([O-])C=1C=C(C=CC1)NC(CCCCCCCCCCCCCCCCC)=O | C24H40N2O3
